* C:\Users\Kreidos\Desktop\MATLABCircuitOptimizer-loop\Buck_Vopt.asc
M1 IN N006 N003 N003 BCDMOSHS l=600n w=25m
M2 N003 N011 0 0 BCDMOSLS l=600n w=0.0098
XU1 vcc N001 N005 N007 N008 0 N010 0 0 N011 vcc vcc N003 N006 N002 IN LTC3703
Vcc vcc 0 10
VIN IN 0 48
L N003 OUT 10u
R1 N008 0 10K
R2 N001 0 25K
R8 N005 N004 100K
C5 N004 N007 2200p
R9 OUT N007 113K
R10 OUT N009 100
C6 N009 N007 2200p
C7 N010 0 .001u
C8 N002 N003 .1u
D2 0 N003 1N5817
C9 N005 N007 1000p
D3 vcc N002 1N5817
RLOAD OUT 0 1
R3 N007 0 $Rf
C1 OUT 0 100u
.model D D
.lib C:\Users\Kreidos\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Kreidos\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1.6m 1.5m startup
.model BCDMOSHS NMOS(Kp=600u Vto=0.7 Lambda=0.01 Rd=0.01 Cgso=15e-12 Cgdo=15e-12)
.model BCDMOSLS NMOS(Kp=600u Vto=0.7 Lambda=0.01 Rd=0.0039 Cgso=15e-12 Cgdo=15e-12)
.meas tran Vout AVG V(out)  from 0  to 100u
.lib LTC3703.sub
.backanno
.end
